US07566724B2
Under an argon atmosphere, sodium hydride (108 mg) was added to a solution of 4-iodophenol (220 mg) and 2-chloro-4-methoxypyrimidine (168 mg) in anhydrous DMF (10 ml), and the resulting mixture was stirred at 125° C. for 9 hours. The reaction solution was cooled to room temperature and water was added thereto, followed by extracting the resulting mixture with ethyl acetate. Organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=5/1) to obtain 2-(4-iodophenoxy)-4-methoxypyrimidine (312 mg).

reactant | sodium hydride | 108 mg | [H-].[Na+]
reactant | 4-iodophenol | 220 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | 2-chloro-4-methoxypyrimidine | 168 mg | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-iodophenoxy)-4-methoxypyrimidine | 312 mg | IC1=CC=C(OC2=NC=CC(=N2)OC)C=C1 | C11H9IN2O2
